US06908999B2
(RS)-{2-[4-(α-phenyl-p-chlorobenzyl)-piperazin-1-yl]ethoxy}-acetic acid dihydrochloride
The procedure described in Example 14 is followed with the difference that, instead of the (RS)-N,N-dimethyl-{2-[4-(α-phenyl-p-chloro-benzyl)piperazin-1-yl]ethoxy}-acetamide, 104.4 g (0.2 moles) of (RS)-N,N-diethyl-{2-[4-(α-phenyl-p-chloro-benzyl)piperazin-1-yl]ethoxy}-acetamide are used, 100 ml of dioxane are employed as cosolvent, and, during the alkaline hydrolysis, the reaction mixture is boiled for 4 hours. Thus, 69.1 g (74.9%) of the title compound are obtained, m.p.: 225-228° C. The purity of the product corresponds to the quality requirements given in Eur. Pharm., 3, 1997, 1084.

reactant | (RS)-N,N-dimethyl-{2-[4-(α-phenyl-p-chloro-benzyl)piperazin-1-yl]ethoxy}-acetamide | CN(C(COCCN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=CC=C1)=O)C | C23H30ClN3O2
reactant | (RS)-N,N-diethyl-{2-[4-(α-phenyl-p-chloro-benzyl)piperazin-1-yl]ethoxy}-acetamide | 0.2 moles, 104.4 g | C(C)N(C(COCCN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=CC=C1)=O)CC | C25H34ClN3O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (RS)-{2-[4-(α-phenyl-p-chlorobenzyl)-piperazin-1-yl]ethoxy}-acetic acid dihydrochloride | 69.1 g, 74.9% | Cl.Cl.C1(=CC=CC=C1)C(C1=CC=C(C=C1)Cl)N1CCN(CC1)CCOCC(=O)O | InChI=1S/C21H25ClN2O3.2ClH/c22-19-8-6-18(7-9-19)21(17-4-2-1-3-5-17)24-12-10-23(11-13-24)14-15-27-16-20(25)26;;/h1-9,21H,10-16H2,(H,25,26);2*1H
